US06046213
3-(4-Fluorophenylsulfanyl)-8-(2,2,2-trichloroethoxycarbonyl)-8-azabicyclo-(3.2.1)-octane
A mixture of 3-(4-fluorophenylsulfanyl)-8-methyl-8-azabicyclo-(3.2.1)-octane (the compound of Preparation 36, 8.20 g, 32.65 mmol), 2,2,2-trichloroethyl chloroformate (4.94 mL, 35.92 mmol), and potassium carbonate (4.96 g, 35.92 mmol) in benzene (140 mL) was refluxed overnight. The solvent was removed at reduced pressure and the residue was taken up in ethyl acetate. The organic phase was washed with aqueous bicarbonate and brine, dried over calcium sulfate and concentrated. The residue was flash chromatographed on silica gel (3×4 inches) with elution proceeding as follows: hexane (350 mL), nil; 10% ethyl acetate/hexane (400 mL), discarded forerun; 10% ethyl acetate/hexane (600 mL), 20% ethyl acetate/hexane (500 mL), and 30% ethyl acetate/hexane (250 mL), 10.32 g (77%) of 3-(4-fluorophenylsulfanyl)-8-(2,2,2-trichloroethoxycarbonyl)-8-azabicyclo-(3.2.1)-octane as an off white solid which had: mp 65-67° C.; NMR δ 7.40 (dd, J=5.5, 9 Hz, 2 H), 6.98 (long range coupled t, J=8.5 Hz, 2 H), 4.72 (ABq, Δv1-3 =60 Hz, J=12 Hz, 2 H), 4.35 (sym m, 2 H), 3.32 (septet, J=6 Hz, 1 H), 2.10-1.94 (m, 2 H), 1.94-1.58 (m, 6 H).

reactant | 3-(4-fluorophenylsulfanyl)-8-methyl-8-azabicyclo-(3.2.1)-octane | FC1=CC=C(C=C1)SC1CC2CCC(C1)N2C | C14H18FNS
reactant | 2,2,2-trichloroethyl chloroformate | 35.92 mmol, 4.94 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | potassium carbonate | 35.92 mmol, 4.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 140 mL | C1=CC=CC=C1 | C6H6
product | 3-(4-Fluorophenylsulfanyl)-8-(2,2,2-trichloroethoxycarbonyl)-8-azabicyclo-(3.2.1)-octane | FC1=CC=C(C=C1)SC1CC2CCC(C1)N2C(=O)OCC(Cl)(Cl)Cl | C16H17Cl3FNO2S
